2146-05-22 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Lidocaine - 2 mg/min
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Vecuronium - 0.05 mg/Kg/hour
   Other ICU medications:
   Vecuronium - [**2146-5-22**] 12:34 AM
   Metoprolol - [**2146-5-22**] 01:27 AM
   Famotidine (Pepcid) - [**2146-5-22**] 03:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-22**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 65 (60 - 112) bpm
   BP: 111/68(81) {111/68(2) - 187/104(130)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                     58 mL
                                                                    691 mL
   PO:
             TF:
   IVF:
                                                                     58 mL
                                                                    691 mL
   Blood products:
   Total out:
                                                                    215 mL
                                                                    164 mL
   Urine:
                                                                     15 mL
                                                                    164 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -157 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.40/34/148/17/-2
   Ve: 9.8 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   14.8 g/dL
   144 mg/dL
   1.4 mg/dL
   17 mEq/L
   4.1 mEq/L
   19 mg/dL
   108 mEq/L
   141 mEq/L
   43.1 %
   13.9 K/uL
        [image002.jpg]
                             [**2146-5-22**]  12:35 AM
                             [**2146-5-22**]  12:57 AM
                             [**2146-5-22**]  01:59 AM
                             [**2146-5-22**]  03:30 AM
                             [**2146-5-22**]  03:40 AM
                             [**2146-5-22**]  04:55 AM
   WBC
   13.9
   Hct
   43.1
   Plt
   305
   Cr
   1.4
   TropT
   0.67
   TCO2
   25
   22
   23
   22
   Glucose
   144
   Other labs: PT / PTT / INR:14.5/146.0/1.3, CK / CKMB /
   Troponin-T:470/48/0.67, Differential-Neuts:82.7 %, Lymph:12.5 %,
   Mono:4.2 %, Eos:0.5 %, Lactic Acid:1.1 mmol/L, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 CARDIAC ARREST
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-21**] 11:00 PM
   18 Gauge - [**2146-5-21**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2146-05-23 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2146-5-22**]
   - Wrote for heparin gtt
   - Converted to sinus rhythm around 2pm. HR slowed to 40s. Per review of
   literature, this is normal for patient's undergoing cooling.
   - Plan for TTE on Monday (ordered)
   - EEG ordered, tech paged
   - Total potassium repletion: 80mEq PO
   - Nutrition recs:  Increased tubefeed goal to 75cc/hour
   - At 4pm, UOP 30cc/hour. At 8pm, UOP dropping to 20cc/hour. 500cc bolus
   given.
   - PCO2 26 (6:30pm); respiratory rate decreased --> pCO2 32 (8:30pm)
   - FYI email sent to Dr. [**Last Name (STitle) 1526**]
   - Contiuous EEG
   - Neuro recs:  Continuous EEG monitoring; MRI brain to evaluate hypoxic
   injury when able; attempt to lift paralysis/sedation in order to
   perform exam; cannot offer prognosis unfortunately [**1-24**] lack of exam;
   West Consult Service will follow
   - 12am:  I/O -1L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Heparin Sodium - 800 units/hour
   Vecuronium - 0.05 mg/Kg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-5-23**] 01:07 AM
   Other medications:
   Changes to medical and family history: No changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes.
   Flowsheet Data as of  [**2146-5-23**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 48 (42 - 76) bpm
   BP: 120/67(84) {100/65(77) - 145/94(113)} mmHg
   RR: 16 (16 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                  2,566 mL
                                                                    834 mL
   PO:
             TF:
                                                                    297 mL
                                                                    356 mL
   IVF:
                                                                  2,199 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                    561 mL
                                                                    157 mL
   Urine:
                                                                    561 mL
                                                                    157 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,005 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/40/94.[**Numeric Identifier 126**]/19/-2
   Ve: 8 L/min
   PaO2 / FiO2: 235
   Physical Examination
   GENERAL: Obese, intubated, dusky.
   HEENT: NCAT. Sclera anicteric. Pinpoint unreactive pupils. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No bruits, no jvp.
   CARDIAC: Ireg Ireg. No M/T/R. PMI not palpable.
   LUNGS: CTA anteriorly BL.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: Weak radial pulses BL.
   Labs / Radiology
   220 K/uL
   13.9 g/dL
   135 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.3 mEq/L
   20 mg/dL
   112 mEq/L
   142 mEq/L
   40.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2146-5-22**]  03:40 AM
                             [**2146-5-22**]  04:55 AM
                             [**2146-5-22**]  09:05 AM
                             [**2146-5-22**]  01:27 PM
                             [**2146-5-22**]  01:46 PM
                             [**2146-5-22**]  06:15 PM
                             [**2146-5-22**]  06:30 PM
                             [**2146-5-22**]  08:36 PM
                             [**2146-5-23**]  05:28 AM
                             [**2146-5-23**]  05:40 AM
   WBC
   11.3
   Hct
   40.0
   Plt
   220
   Cr
   1.3
   1.2
   1.2
   1.1
   TropT
   0.76
   0.51
   TCO2
   23
   22
   23
   18
   21
   24
   Glucose
   139
   158
   135
   Other labs: PT / PTT / INR:14.5/135.6/1.3, CK / CKMB /
   Troponin-T:300/57/0.51, Differential-Neuts:82.7 %, Lymph:12.5 %,
   Mono:4.2 %, Eos:0.5 %, Lactic Acid:1.1 mmol/L, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 CARDIAC ARREST
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Maintain PEEP at current level and reduce FiO2 as tolerated, Reduce
   PEEP as tolerated; Comments: continue to monitor ABG's to manage vent
   settings
   Since starting to rewarm have slowly started to decrease sedation/NMB
   agents, currently on versed 4mg/hr, fent 100mcg/hr and vecuronium
   .05mg/kg/hr
   ASSESSMENT AND PLAN: 68yo M s/p cardiac arrest in context of unstable
   angina earlier today, now intubated, s/p cooling on arctic sun protocol
   and beginning re-warming process. No signs STEMI. Very little known
   about active medical issues and history since he does not rec. regular
   medical care.
   .
   #. S/p Arrest: With documented Asystole vs VFib, requiring 2 shocks and
   lidocaine, now HD stable off Lidocaine. Occurred in setting of earlier
   CP. No signs of ST elevation MI. Lytes PND. Suspect [**1-24**] infarction.
   Enzzymes trending down with CK 609 -> 300, MB 82 -> 57.  Work-up PND
   for ischemic heart disease to include ECHO today.
   - Con
t ASA, Plavix, BB (Metoprolol 5mg), Statin
   - Heparin gtt
   - EEG per protocol;
   - f/u neuro
   - Now re-warming per repurfusion
   - Vecuronium 10mg IV times one if develops hypothermic shaking.
   - ECHO
   - f/u 48 hour EEG
   #. Respiratory arrest: Respiratory acidosis evident just before leaving
   ED for floor, with gas 7.21/67/174/28. CXR suggestive of BL aspiration
   in context of multiple intubation attempts. Yesterday,  PCO2 26
   (6:30pm); respiratory rate decreased --> pCO2 32 (8:30pm); last gas
   improved at 7.36/40/94.
   - Con't vent with goal pC02 35-40
   - Weaning sedation
   - Daily CXR
   - Monitor for Aspiration pna; con
t Famotidine
   .
   #. HTN: Improved on Captopril 6.25 mg PO TID (and Metoprolol).
   -Con
t Captopril and Metoprolol with holding parameters as written.
   .
   FEN:
   ACCESS: 3 PIV's, A line insterted [**5-23**]
   PROPHYLAXIS:
   -DVT ppx with on heparin
   -Pain management On Fentanyl
   -Bowel regimen with Senna/Colace PRN
   CODE: Presumed full
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2146-5-23**] 04:03 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-5-21**] 11:00 PM
   18 Gauge - [**2146-5-21**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 4321**].
   I would add the following remarks:
   Medical Decision Making
   Critical care time 60 minutes for management of ventilator and cooling
   protocol for cardiac arrest as well as bradycardia.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2146-5-23**] 10:07 ------

2146-05-24 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Completed cooling protocol
   - Febrile to 101. Started tylenol. Cultured.
   - Neuro - EEG with diffuse slowing. Pappiledema noted. Request Head Ct.
   Poor prognosis. Cold calorics negative.
   - Cardiac arrest c/s - f/u eeg, goal pCO2 35-40, avoid high sugars, HOB
   greater than 30 degrees, avoid fever
   - Head CT - Prelim - No intracranial hemorrhage. Bilateral ethmoidal
   and sphenoidal maxillary sinus mucosal thickening.
   - Updated family
   - 1000 cc bolus for low uop at MN. Minimal response.
   - Added motrin and tylenol to help control temperature
   - ABG 5 am on [**5-24**] 7.3/47/101/24 --> increased RR to 20
   - ECHO: suboptimal quality. Mild global biventricular hypokinesis. EF
   35-40%
 TRANSTHORACIC ECHO - At [**2146-5-23**] 09:00 AM
 EKG - At [**2146-5-23**] 09:49 AM
 URINE CULTURE - At [**2146-5-23**] 04:00 PM
 BLOOD CULTURED - At [**2146-5-23**] 08:40 PM
 BLOOD CULTURED - At [**2146-5-23**] 08:55 PM
 SPUTUM CULTURE - At [**2146-5-23**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2146-5-23**] 06:24 PM
   Famotidine (Pepcid) - [**2146-5-24**] 01:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-24**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 52 (52 - 71) bpm
   BP: 85/49(60) {85/49(60) - 183/93(121)} mmHg
   RR: 20 (6 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                  2,793 mL
                                                                  2,110 mL
   PO:
             TF:
                                                                  1,366 mL
                                                                    202 mL
   IVF:
                                                                  1,097 mL
                                                                  1,848 mL
   Blood products:
   Total out:
                                                                    545 mL
                                                                    152 mL
   Urine:
                                                                    545 mL
                                                                    152 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,248 mL
                                                                  1,958 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.30/47/101/21/-3
   Ve: 6.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   GENERAL: Obese, intubated, dusky.
   HEENT: NCAT. Sclera anicteric. Pinpoint unreactive pupils. L>R
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: No bruits, no jvp.
   CARDIAC: bradycardic, regular. No M/T/R. PMI not palpable.
   LUNGS: CTA anteriorly BL.
   ABDOMEN: Soft, NT, distended. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: No c/c 1+ edema. No femoral bruits, cool ext
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: Weak radial pulses BL.
   Labs / Radiology
   260 K/uL
   12.5 g/dL
   115 mg/dL
   2.6 mg/dL
   21 mEq/L
   4.5 mEq/L
   30 mg/dL
   111 mEq/L
   141 mEq/L
   36.4 %
   12.4 K/uL
        [image002.jpg]
                             [**2146-5-22**]  06:15 PM
                             [**2146-5-22**]  06:30 PM
                             [**2146-5-22**]  08:36 PM
                             [**2146-5-23**]  05:28 AM
                             [**2146-5-23**]  05:40 AM
                             [**2146-5-23**]  08:19 AM
                             [**2146-5-23**]  08:31 AM
                             [**2146-5-23**]  12:26 PM
                             [**2146-5-24**]  04:52 AM
                             [**2146-5-24**]  05:09 AM
   WBC
   11.3
   12.4
   Hct
   40.0
   36.4
   Plt
   220
   260
   Cr
   1.2
   1.1
   1.3
   1.6
   2.6
   TropT
   0.51
   TCO2
   18
   21
   24
   25
   24
   Glucose
   158
   135
   131
   128
   115
   Other labs: PT / PTT / INR:13.9/49.2/1.2, CK / CKMB /
   Troponin-T:300/57/0.51, ALT / AST:34/25, Alk Phos / T Bili:61/0.6,
   Differential-Neuts:82.7 %, Lymph:12.5 %, Mono:4.2 %, Eos:0.5 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CARDIAC ARREST
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ASSESSMENT AND PLAN: 68yo M s/p cardiac arrest in context of unstable
   angina earlier today, now intubated, s/p cooling on arctic sun protocol
   and beginning re-warming process. No signs STEMI. Very little known
   about active medical issues and history since he does not rec. regular
   medical care. Pt plan will ultimately be dictated by family
s goals of
   care.
   .
   #. S/p Arrest:  Pt non-reponsive. Cold caloric negative indicating no
   brainstem reflex.  Pt completed cool protocol.  Cardiac arrest consult
   following.  With documented Asystole vs VFib, requiring 2 shocks and
   lidocaine, Occurred in setting of earlier CP. No signs of ST elevation
   MI. Suspect [**1-24**] infarction. Enzymes trending down with CK 609 -> 300,
   MB 82 -> 57.  ECHO showed global hypokinesis.
   - f/u cardiac arrest consult recs
             - f/u eeg, goal pCO2 35-40, avoid high sugars, HOB greater
   than 30 degrees, avoid fever
   - Con
t ASA, Plavix, BB (Metoprolol 5mg with hold parameters), Statin
   - d/c Heparin gtt
   - f/u EEG
   - f/u neuro regarding prognosis (possible repeat CT)
   - plan for family meeting, will get SW and Palliative Care consults,
   likely tomorrow
   #. Respiratory arrest ABG 7.3/47/101/24, RR increased to 20. Goal to
   maintain pCO2 35-40. New ABG 7.35/40/104/23.  CXR suggestive of BL
   aspiration in context of multiple intubation attempts.
   - Con't vent with goal pC02 35-40
   - Weaning sedation
   - Daily CXR
   - concern for aspiration given fevers overnight consider levaquin for
   coverage if worsens
   .
   #. Acute Renal Failure: Pt Cr increased to 2.6 with poor UOP. FeUrea 29
   consistent with pre-renal. Also could represent ATN in the setting of
   cardiac arrest. Pt received 1L bolus with minimal improvement in UOP.
   -          cont to trend Cr
   -          avoid nephrotoxins and renally dose meds
   -          bolus with IVF prn
   -          consider renal consult if continues to worsen
   -          further management will be dependent on goals of care
   discussion
   .
   #. UTI: Pt with mildly positive UA w\ith [**6-1**] WBC and mod bacteria.  If
   patient worsens or becomes febrile will treat with empiric levaquin for
   aspiration pna, which will also cover for UTI
   -          f/u cx
   -          repeat UA
   #. HTN: Improved and also hypotensive to 80
s this AM. Responded to
   500cc bolus and d/c sedation. Captopril 6.25 mg PO TID and metoprolol..
   -Con
t Captopril and Metoprolol with holding parameters as written.
   - cont to monitor off sedation
   .
   FEN:  Increased residuals and TF on hold.  Will obtain KUB
   ACCESS: 3 PIV's, A line insterted [**5-23**]
   PROPHYLAXIS:
   -DVT ppx with on heparin
   -Bowel regimen with Senna/Colace PRN
   CODE: Presumed full. Will need neurology to weigh in on prognosis and
   then plan for goals of care meeting with patient
s family.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-5-21**] 11:00 PM
   20 Gauge - [**2146-5-21**] 11:00 PM
   18 Gauge - [**2146-5-21**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-25 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 68yo M s/p cardiac arrest in context of unstable
   angina earlier today, now intubated, s/p cooling on arctic sun protocol
   and beginning re-warming process. No signs STEMI. Very little known
   about active medical issues and history since he does not rec. regular
   medical care. Pt plan will ultimately be dictated by family
s goals of
   care.
   24 Hour Events:
 URINE CULTURE - At [**2146-5-24**] 12:00 PM
   [**2146-5-24**]:
    - Having elev BP's 170's-190's likely response to inc intra-cranial
   pressure
   -Neuro Recs: No repeat Head CT unless he has a blown pupil
   -Running even
   -Holding TF due to high residuals
   - Maintenance fluids initiated
   -Re: asp pneumonia holding off on starting ABX unless he spikes (would
   start Levoflox)
   - IV Heparin stopped
   - Social work c/s for end of life coping issues
   -Fam will be here at 11am tomorrow for mtg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-5-25**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 57 (51 - 63) bpm
   BP: 165/85(111) {89/58(69) - 182/96(125)} mmHg
   RR: 20 (19 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,008 mL
                                                                  1,229 mL
   PO:
             TF:
                                                                    455 mL
                                                                    247 mL
   IVF:
                                                                  3,252 mL
                                                                    862 mL
   Blood products:
   Total out:
                                                                    727 mL
                                                                    340 mL
   Urine:
                                                                    727 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,281 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/40/104/22/-3
   Ve: 10.1 L/min
   PaO2 / FiO2: 260
   Physical Examination
   GENERAL: Obese, intubated, dusky.
   HEENT: NCAT. Sclera anicteric. Pinpoint unreactive pupils. L>R
   Conjunctiva were pink, no pallor or cyanosis of the oral mucosa. No
   xanthalesma.
   NECK: No bruits, no jvp.
   CARDIAC: bradycardic, regular. No M/T/R. PMI not palpable.
   LUNGS: CTA anteriorly BL.
   ABDOMEN: Soft, NT, distended. No HSM or tenderness. Abd aorta not
   enlarged by palpation. No abdominial bruits.
   EXTREMITIES: No c/c 1+ edema. No femoral bruits, cool ext
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: Weak radial pulses BL.
   Labs / Radiology
   225 K/uL
   11.7 g/dL
   114 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   28 mg/dL
   109 mEq/L
   140 mEq/L
   33.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2146-5-22**]  08:36 PM
                             [**2146-5-23**]  05:28 AM
                             [**2146-5-23**]  05:40 AM
                             [**2146-5-23**]  08:19 AM
                             [**2146-5-23**]  08:31 AM
                             [**2146-5-23**]  12:26 PM
                             [**2146-5-24**]  04:52 AM
                             [**2146-5-24**]  05:09 AM
                             [**2146-5-24**]  08:29 AM
                             [**2146-5-25**]  05:15 AM
   WBC
   11.3
   12.4
   10.0
   Hct
   40.0
   36.4
   33.3
   Plt
   220
   260
   225
   Cr
   1.1
   1.3
   1.6
   2.6
   2.0
   TropT
   0.51
   TCO2
   21
   24
   25
   24
   23
   Glucose
   135
   131
   128
   115
   114
   Other labs: PT / PTT / INR:13.1/32.4/1.1, CK / CKMB /
   Troponin-T:300/57/0.51, ALT / AST:34/25, Alk Phos / T Bili:61/0.6,
   Differential-Neuts:82.7 %, Lymph:12.5 %, Mono:4.2 %, Eos:0.5 %, Lactic
   Acid:0.9 mmol/L, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 68yo M s/p cardiac arrest in context of unstable
   angina earlier today, now intubated, s/p cooling on arctic sun protocol
   and beginning re-warming process. No signs STEMI. Very little known
   about active medical issues and history since he does not rec. regular
   medical care. Pt plan will ultimately be dictated by family
s goals of
   care.
   .
   #. S/p Arrest:  Pt non-reponsive. Neurology following. Repeat CT
   deferred per neuro. Cold caloric negative indicating no brainstem
   reflex, but pupils minimally reactive and over-breathing vent.
   Prognosis poor per neuro.  Cardiac arrest consult following.  With
   documented Asystole vs VFib, requiring 2 shocks and lidocaine, Occurred
   in setting of earlier CP. No signs of ST elevation MI. Suspect [**1-24**]
   infarction. Enzymes trending down with CK 609 -> 300, MB 82 -> 57.
   ECHO showed global hypokinesis.
   - goals of care meeting with family today
   - SW consulted
   - f/u cardiac arrest consult recs
             - f/u eeg, goal pCO2 35-40, avoid high sugars, HOB greater
   than 30 degrees, avoid fever
   - Con
t ASA, Plavix, BB (Metoprolol 5mg with hold parameters), Statin
   - f/u EEG
   - f/u neuro regarding prognosis and further workup needed
   #. Respiratory arrest: Afebrile overnight.  ABG 7.35/40/104/22
   yesterday.  Goal to maintain pCO2 35-40. New ABG 7.35/40/104/23.  CXR
   suggestive of BL aspiration in context of multiple intubation attempts.
   - Con't vent with goal pC02 35-40
   - Weaning sedation
   - Daily CXR
   - concern for aspiration given prior fevers consider levaquin for
   coverage if worsens
   .
   #. Acute Renal Failure: Pt Cr improved to 2.0 FeUrea 29 consistent with
   pre-renal. Also could represent ATN in the setting of cardiac arrest.
   Pt received 1L bolus with minimal improvement in UOP.
   -          cont to trend Cr
   -          avoid nephrotoxins and renally dose meds
   -          bolus with IVF prn .
   #. UTI: Pt with mildly positive UA w\ith [**6-1**] WBC and mod bacteria.  If
   patient worsens or becomes febrile will treat with empiric levaquin for
   aspiration pna if needed, which will also cover for UTI
   -          f/u cx and UA
   #. HTN: Improved and also hypotensive to 80
s this AM. Responded to
   500cc bolus and d/c sedation. Captopril 6.25 mg PO TID and metoprolol..
   -Con
t Captopril and Metoprolol with holding parameters as written.
   - cont to monitor off sedation
   .
   FEN:  Increased residuals and TF on hold.  Will obtain KUB
   ACCESS: 3 PIV's, A line insterted [**5-23**]
   PROPHYLAXIS:
   -DVT ppx with on heparin
   -Bowel regimen with Senna/Colace PRN
   CODE: Presumed full. Will need neurology to weigh in on prognosis and
   then plan for goals of care meeting with patient
s family.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-5-21**] 11:00 PM
   20 Gauge - [**2146-5-21**] 11:00 PM
   18 Gauge - [**2146-5-21**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 40 minutes.
   Additional comments:
   s/p cardiac arrest, severe brain injury, ventilator dependent
   ------ Protected Section Addendum Entered By:[**Name (NI) 946**] [**Name (NI) **],MD
   on:[**2146-5-25**] 10:53 ------